US07034018B2
1-[(1-Furan-2-yl-1H-pyrrol-2-yl)-(2-methoxyphenyl)-methyl]-piperidine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-furan-2-yl-1H-pyrrole and 1-(2-methoxy-benzylidene)-piperidinium chloride.

reactant | 1-furan-2-yl-1H-pyrrole | O1C(=CC=C1)N1C=CC=C1 | C8H7NO
reactant | 1-(2-methoxy-benzylidene)-piperidinium chloride | [Cl-].COC1=C(C=[N+]2CCCCC2)C=CC=C1
product | 1-[(1-Furan-2-yl-1H-pyrrol-2-yl)-(2-methoxyphenyl)-methyl]-piperidine | O1C(=CC=C1)N1C(=CC=C1)C(N1CCCCC1)C1=C(C=CC=C1)OC | C21H24N2O2
